US04515793
3-Chloro-1-(2-furanyl)-1-propanone
At 25°, 3-chloropropionyl chloride (25.4 g, 0.20 mole) was added to a suspension of anhydrous aluminum chloride (27.1 g, 0.20 mole) in 1,2-dichloroethane (DCE). The mixture was stirred until the aluminum chloride had nearly dissolved. This solution was added at 0°-5° during 15 minutes to a solution of furan (13.6 g, 0.2 mole) in 100 ml of DCE. The reaction mixture became very dark and a tan precipitate was deposited. The reaction mixture was then immediately poured into 1 of ice-water. An emulsion of some brown precipitate formed. This mixture was extracted with diethyl ether (five times, 150 ml), and the combined ether extract was filtered through a column of 150 g of silica gel. The column was then washed with 200 ml of ether and the combined eluants were concentrated at reduced pressure (40°) to 100 ml. The solution was then washed with 100 ml of saturated sodium hydrogen carbonate, dried over anhydrous sodium sulfate, treated with activated carbon, and evaporated at reduced pressure to give a liquid (3.5 g) which rapidly darkened at room temperature. It was stored at -10°. PMR spectroscopy indicated the product was about 75% desired copound. The mixture was used without further purification.

reactant | 3-chloropropionyl chloride | 0.20 mole, 25.4 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | aluminum chloride | 0.20 mole, 27.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | furan | 0.2 mole, 13.6 g | O1C=CC=C1 | C4H4O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | DCE | 100 ml | ClCCCl | C2H4Cl2
product | 3-Chloro-1-(2-furanyl)-1-propanone | 3.5 g | ClCCC(=O)C=1OC=CC1 | C7H7ClO2
